US08071584B2
2,6-Dimethyltetrahydro-4H-thiopyran-4-one
1,6-Heptadien-4-one (0.50 g, 4.54 mmol) was dissolved in toluene (8 mL) and water (4 mL). Sodium sulfide nonahydrate (1.09 g, 4.54 mmol) was dissolved in water (4 mL) and added to the solution above and stirred at room temp. After 5 h, the aqueous layer was saturated with potassium carbonate and extracted with diethyl ether. The combined organics were washed with brine, dried MgSO4, and concentrated. The crude compound was purified on a Combiflash silica column with 0-10% EtOAc/hexanes to give 0.193 g (29%) of the title compound.

reactant | 1,6-Heptadien-4-one | 4.54 mmol, 0.50 g | C=CCC(CC=C)=O | C7H10O
reactant | Sodium sulfide nonahydrate | 4.54 mmol, 1.09 g | O.O.O.O.O.O.O.O.O.[S-2].[Na+].[Na+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 8 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 4 mL | O | H2O
solvent | water | 4 mL | O | H2O
product | 2,6-Dimethyltetrahydro-4H-thiopyran-4-one | 0.193 g, 29% | CC1SC(CC(C1)=O)C | C7H12OS
